* AD8047 SPICE Macro-model 
* Description: Amplifier
* Generic Desc: 250MHz (G=1) voltage feedback op amp
* Developed by: JCH / ADI
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (11/1997)
* Copyright 1997, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*	
* CAUTION: NOISE PERFORMANCE IS NOT INCLUDED IN THIS MODEL.  NOISE
* MODELING WILL BE INCLUDED IN A LATER REVISION.
*
* Node assignments
*               non-inverting input
*               |  inverting input
*               |  |  positive supply
*               |  |  |  negative supply
*               |  |  |  |  output
*               |  |  |  |  |
.SUBCKT AD8047  3  1  99 50 44
*
* INPUT STAGE AND POLE AT 800MHZ
*
I1   8    50   1E-3
Q1   4    1    6    QN
Q2   5    2    7    QN
R1   99   4    862
R2   99   5    862
C1   4    5    0.116p
R3   6    8    810.5
R4   7    8    810.5
RCM1 1    20   5G
RCM2 3    20   5G
IOS  1    3    3u
EOS  3    2    POLY(1) (16,98) 1E-3 1
CIN1 1   99    1.5PF
CIN2 2   99    1.5PF
*
* GAIN STAGE AND DOMINANT POLE AT 110KHZ
*
EREF 98   0    POLY(2) (99,0) (50,0) 0 0.5 0.5
G1   98   9    (4,5) 1.16E-3
R5   9    98   1.085E6
C2   9    98   1.333E-12
D1   9    10   DX
D2   11   9    DX
H1   99   10   POLY(1) Vout 1.87  37.9 -3.94E2  2.44E3
H2   11   50   POLY(1) Vout 1.93 -40.3 -4.51E2 -2.70E3
*
*POLE AT 1.1GHZ
*
GP1  98   12    (9,98) 1
RP1  98   12    1
CP1  98   12    0.14N
*
*POLE AT 1.1GHZ
*
GP2  98   13    (12,98) 1
RP2  98   13    1
CP2  98   13    0.14N 
*
*POLE AT 1.1GHZ
*
GP3  98   14    (13,98) 1
RP3  98   14    1
CP3  98   14    0.14N
*
*POLE AT 1.3GHZ
*
GP4  98   17    (14,98) 1
RP4  98   17    1
CP4  98   17    0.12N
*
*COMMON-MODE ZERO AT 113KHZ
*
GCM1 98   15    20 98 1E-10
RCM3 15   16    1MEG
LCM1 16   98    1.4
*
* BUFFER TO OUTPUT STAGE
*
GB11  98   40   (14,98) 200m
RB11  98   40   5
*
* OUTPUT STAGE
*
RO1  99   45   0.4
RO2  45   50   0.4
G7   45   99   (99,40) 2.5
G8   50   45   (40,50) 2.5
G9   98   60   (45,40) 2.5 
D7   60   61   DX
D8   62   60   DX
V7   61   98   DC 0
V8   98   62   DC 0
FSY  99   50   POLY(2) V7 V8 4E-3  1  1
D9   41   45   DX
D10  45   42   DX
V5   40   41   0.68
V6   42   40   0.68
Vout 45   46   0
LO   46   44   .06E-9
*
* MODELS USED
*
.MODEL DX D
.MODEL QN NPN(BF=500)
.ENDS AD8047





